US06506762B1
J. (2-{[2-(4-Ethoxy-3-methoxyphenyl)ethyl]amino}ethyl)[5-methyl-3-(2,4,6-trimethylphenyl)imidazolo[5,4-b]pyridin-7yl]amine
Heat a solution of (2-chloroethyl)[5-methyl-3-(2,4,6,-trimethylphenyl)imidazolo[5,4-b]pyridin-7-yl]-amine (0.030 g, 0.09 mmol) and 4-ethoxy-3-methoxy phenethylamine (0.10 g, 0.55 mmol) in dry NMP (2 mL) at 110° C. for 16 h. Pour the cooled mixture onto water (20 mL) and extract twice with EtOAc (20 mL). Wash the combined extracts with brine (30 mL), dry, and evaporate in vacuo. Purify by flash column chromatography (10% MeOH in CH2Cl2 with 0.1% ammonium hydroxide) to obtain the title compound as a solid.

reactant | (2-chloroethyl)[5-methyl-3-(2,4,6,-trimethylphenyl)imidazolo[5,4-b]pyridin-7-yl]-amine | 0.09 mmol, 0.030 g | ClCCNC1=C2C(=NC(=C1)C)N(C=N2)C2=C(C=C(C=C2C)C)C | C18H21ClN4
reactant | 4-ethoxy-3-methoxy phenethylamine | 0.55 mmol, 0.10 g | C(C)OC1=C(C=C(CCN)C=C1)OC | C11H17NO2
solvent | NMP | 2 mL | CN1CCCC1=O | C5H9NO
product | (2-{[2-(4-Ethoxy-3-methoxyphenyl)ethyl]amino}ethyl)[5-methyl-3-(2,4,6-trimethylphenyl)imidazolo[5,4-b]pyridin-7yl]amine | C(C)OC1=C(C=C(C=C1)CCNCCNC1=C2C(=NC(=C1)C)N(C=N2)C2=C(C=C(C=C2C)C)C)OC | C29H37N5O2
